US06316444B1
Step E: 2-[Benzimidazol-1-yl]-4-[1-(1-methyl-4-(N-naphth-1-yl-carbamoyl)piperazine-2-yl)-ethylamino]pyrimidine
The title compound was prepared from 2-[benzimidazol-1-yl]-4-[1-(1-(benzyloxycarbonyl)-4-(N-naphth-1-yl-carbamoyl)-piperazine-2-yl)ethylamino]pyrimidine (50 mg), 37% aqueous formaldehyde (17 μL), and NaBH3CN (4.4 mg) according to the procedure described in EXAMPLE 14, Step G. Mass spectrum (ESI) 507.4 (M+1).

reactant | 2-[benzimidazol-1-yl]-4-[1-(1-(benzyloxycarbonyl)-4-(N-naphth-1-yl-carbamoyl)-piperazine-2-yl)ethylamino]pyrimidine | 50 mg | N1(C=NC2=C1C=CC=C2)C2=NC=CC(=N2)NC(C)C2N(CCN(C2)C(NC2=CC=CC1=CC=CC=C21)=O)C(=O)OCC2=CC=CC=C2 | C36H34N8O3
reactant | formaldehyde | 17 μL | C=O | CH2O
reactant | NaBH3CN | 4.4 mg | [BH3-]C#N.[Na+]
product | 2-[Benzimidazol-1-yl]-4-[1-(1-methyl-4-(N-naphth-1-yl-carbamoyl)piperazine-2-yl)-ethylamino]pyrimidine | N1(C=NC2=C1C=CC=C2)C2=NC=CC(=N2)NC(C)C2N(CCN(C2)C(NC2=CC=CC1=CC=CC=C21)=O)C | C29H30N8O
